US06680401B1
Formation of 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenol
The above reaction procedure used for 2-iodophenol was followed. The reaction was also faster, being again complete before the first sample for gc analysis was withdrawn after 1 h 50 min reaction time. The amount of phenylboronic acid pinacol ester was about that found in the 3-iodophenol reaction. The reaction in which 4-bromophenol is used as substrate is slower but does go to completion. Pinacolborane prepared in situ from the dimethylsulfide adduct of borane can also be used with both the 4-bromophenol and 4-iodophenol.

reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
reactant | phenylboronic acid pinacol ester | C1(=CC=CC=C1)B1OC(C)(C)C(C)(C)O1 | C12H17BO2
reactant | 3-iodophenol | IC=1C=C(C=CC1)O | C6H5IO
reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | Pinacolborane | [B]1OC(C(O1)(C)C)(C)C | C6H12BO2
reactant | dimethylsulfide | CSC | C2H6S
reactant | borane | B | BH3
reactant | 4-iodophenol | IC1=CC=C(C=C1)O | C6H5IO
product | 4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)O)C | C12H17BO3
